US07417169B2
2-[2-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenoxy]ethanol
A mixture of 2-(4-bromo-2-methylphenoxy)ethanol (5.43 g), bis(pinacolato)diboron (6.56 g), [bis(diphenylphosphino)-ferrocene]dichloropalladium (0.516 g), bis(diphenylphosphino)ferrocene (0.391 g) and potassium acetate (6.92 g) in 1,4-dioxane (50 mL) was stirred at 100° C. for 15 hrs under an atmosphere of nitrogen. The solvent was evaporated under reduced pressure, and the residue was passed through a pad of silica gel (eluent: ethyl acetate/n-hexane=1/1). The solvent was evaporated under reduced pressure, and the residue was purified by medium-pressure silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/4) to afford the title compound (5.26 g).

reactant | 2-(4-bromo-2-methylphenoxy)ethanol | 5.43 g | BrC1=CC(=C(OCCO)C=C1)C | C9H11BrO2
reactant | bis(pinacolato)diboron | 6.56 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.92 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene | 0.391 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-[2-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenoxy]ethanol | 5.26 g | CC1=C(OCCO)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H23BO4
